* D:\Dropbox\Sats-systems-simulator\lt-spice\Tia-rf-study-500k-ada4530.asc
C2 v2 0 375pF
V2 N001 0 5
R8 Vout v2 500k
I2 v2 0 AC 22E-9
C1 Vout v2 2pF
R2 v2 0 100Meg
XU3 0 v2 N001 0 Vout NC_01 NC_02 ADA4530
;ac dec 100 100 1Meg
.inc D:\Dropbox\QuadFrontEnd\spice-models\ada4096.cir
.lib opamp.sub
.measure ns INTEG V(n003)
.measure sig_pow param -20*log10(ns)
* You can see these in the log. Ctrl + L
* In order to get SNR, manually compute sig_pow/noise_pow. \nnoise_pow found in sister doc foo_noise.asc
* Integrated Signal Power; 34.7 dB
.inc D:\Dropbox\QuadFrontEnd\spice-models\ad8607.cir
.inc D:\Dropbox\QuadFrontEnd\spice-models\ada4530.cir
.noise V(Vout) v2 dec 100 937 1063
.lib D:\Dropbox\QuadFrontEnd\spice-models\ADA4530.cir
.backanno
.end
